US04235820
3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cycloheptene
3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cyclohepten-5-ol (10 g., 0.032 mole) and sodium borohydride (12.3 g., 0.325 mole) are ground together in a mortar. The mixture is added in portions to 250 ml. of trifluoroacetic acid, cooled in ice, and stirred vigorously under a stream of nitrogen in an efficient fume hood. Upon completion of the addition, the mixture is stirred for 15 minutes and the bulk of the trifluoroacetic acid removed under vacuum.

reactant | 3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cyclohepten-5-ol | 0.032 mole, 10 g | NC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)(O)CCCOCC)C1 | C20H23NO2
reactant | sodium borohydride | 0.325 mole, 12.3 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Amino-5-(3-ethoxypropyl)-5H-dibenzo[a,d]cycloheptene | NC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCOCC)C1 | C20H23NO
